US04608079
3-Aminothiophene is redissolved in methanol (500 mL) cooled in an ice bath and dimethylacetylenedicarboxylate (80 g; 0.50 mol) is added dropwise. The mixture is stirred at room temperature for 15 hours and 30 minutes, the methanol removed under reduced pressure and 1,2-dichloroethane is added. This solvent is also evaporated off to give dimethyl 3-thienylaminobutenedioate as an oil.

reactant | 3-Aminothiophene | NC1=CSC=C1 | C4H5NS
reactant | dimethylacetylenedicarboxylate | 0.50 mol, 80 g | COC(=O)C#CC(=O)OC | C6H6O4
solvent | methanol | 500 mL | CO | CH4O
product | dimethyl 3-thienylaminobutenedioate | S1C=C(C=C1)NC(C(=O)OC)=CC(=O)OC | C10H11NO4S
